US09120805B2
140 mg (0.473 mmol) 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carbaldehyde are dissolved in 1 ml diethyleneglycoldimethylether. 12 mg (0.028 mmol) 3-diphenylphosphanylpropyl(diphenyl)phosphane and 3.7 mg (0.014 mmol) rhodium(III)-chloride trihydrate are added. The reaction mixture is stirred for 42 hours at 160° C. The mixture is cooled to room temperature and partitioned between dichloromethane and water. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 6-(4-tert-butyl-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one (“A15”) as colourless crystals; HPLC/MS: 1.88 (C), [M+H] 268.

reactant | 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carbaldehyde | 0.473 mmol, 140 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)C=O)=O | C17H17N3O2
reactant | 3-diphenylphosphanylpropyl(diphenyl)phosphane | 0.028 mmol, 12 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
catalyst | rhodium(III)-chloride trihydrate | 0.014 mmol, 3.7 mg | O.O.O.[Rh](Cl)(Cl)Cl
product | 6-(4-tert-butyl-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=CC2)=O | C16H17N3O
